US07456176B2
Synthesis of 5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-ylamine
An oven dried 25 mL round bottom flask was charged with 7-bromo-5-methyl-benzo[1,2,4]triazin-3-ylamine (1.05 g, 4.49 mmol, 1 equiv), 3-Nitro phenyl boronic acid (1.05 g, 6.29 mmol, 1.4 equiv), sodium carbonate (1.9 g, 18 mmol, 4 equiv) and tetrakis(triphenylphosphine)palladium(0) (0.519 g, 0.449 mmol, 0.1 equiv). The reactants were flushed with argon and diluted with ethylene glycol dimethyl ether (6 mL), ethanol (1 mL) and DI water (1 mL). The reaction vessel was outfitted with condenser and refluxed for 2.5 hours. The reaction was cooled to ambient temperature and diluted with water. The resulting precipitate was filtered off, washed thoroughly with water and dried. Brown solids (0.9 g, 73% yield). MS (ESI+): m/z=282.4, LC retention time: 2.77 min.

reactant | 7-bromo-5-methyl-benzo[1,2,4]triazin-3-ylamine | 4.49 mmol, 1.05 g, 1 equiv | BrC1=CC2=C(N=C(N=N2)N)C(=C1)C | C8H7BrN4
reactant | 3-Nitro phenyl boronic acid | 6.29 mmol, 1.05 g, 1.4 equiv | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 18 mmol, 1.9 g, 4 equiv | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.449 mmol, 0.519 g, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-ylamine | 0.9 g, 73% yield | CC1=CC(=CC2=C1N=C(N=N2)N)C2=CC(=CC=C2)[N+](=O)[O-] | C14H11N5O2
